US08957203B2
To a solution of (3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoic acid (2 g, 6.6 mmole), synthesized using Scheme 1, in dichloromethane (20 mL) was added DIPEA (11.5 mL, 33.0 mmole), HATU (2.7 g, 7.2 mmole) followed by (2S,4R)-methyl 4-hydroxypyrrolidine-2-carboxylate (1.3 g, 7.2 mmole) at room temperature. The reaction mixture was stirred at room temperature for 2 h. The reaction mass was diluted with DCM and washed with water. The organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to get crude (2S,4R)-methyl 1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate. The crude product was taken to the next step without further purification (2.2 g, 80%). MS: MS m/z 427.2 (M++1).

reactant | (3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoic acid | 6.6 mmole, 2 g | C(C)(C)(C)OC(=O)NC(C(=O)O)[C@@H](CC(CCC=C)C)C | C16H29NO4
reactant | DIPEA | 33.0 mmole, 11.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 7.2 mmole, 2.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-methyl 4-hydroxypyrrolidine-2-carboxylate | 7.2 mmole, 1.3 g | O[C@@H]1C[C@H](NC1)C(=O)OC | C6H11NO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S,4R)-methyl 1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate | C(C)(C)(C)OC(=O)NC(C(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC)[C@@H](CC(CCC=C)C)C | C22H38N2O6
